US07112638B2
Synthesis of 2-methyl-3H-cyclopenta[a]naphtalene
A mixture of 2-methyl-2,3-dihydro-1H-cyclopenta[a]naphthalen-1-ol (obtained as described above) and 1 g of p-toluenesulphonic acid in 200 mL of benzene was refluxed for 1 h. Then the reaction mixture was cooled to room temperature and treated with a saturated aqueous solution of Na2CO3. The organic phase was isolated, dried over MgSO4 and evaporated off to dryness. Yield 14.2 g (55% based on starting 2-methyl-2,3-dihydro-1H-cyclopenta[a]naphtalen-1-one).

reactant | 2-methyl-2,3-dihydro-1H-cyclopenta[a]naphthalen-1-ol | CC1CC=2C(=C3C=CC=CC3=CC2)C1O | C14H14O
reactant | p-toluenesulphonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
product | 2-methyl-3H-cyclopenta[a]naphtalene | CC=1CC=2C(=C3C=CC=CC3=CC2)C1 | C14H12
